US04800201
(ii) Preparation of 5-methyl-6-(3-methyl-4-pyridazinyl)-2H-1,4-thiazin-3(4H)-one
A mixture of 5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-3-methyl-1,4-dihydro-4-pyridazinyl]-2H-1,4-thiazin-3(4H)-one (0.4 g) and sulfur sublimed (0.2 g) was treated in the same manner as described in Example 3 (ii) to give the titled compound (0.08 g, yield 36%) as white crystals. Chloroform-methanol (=20:1) was used as a developing eluant.

reactant | 5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-3-methyl-1,4-dihydro-4-pyridazinyl]-2H-1,4-thiazin-3(4H)-one | 0.4 g | CC=1NC(CSC1C1C(=NN(C=C1)C(=O)OCC(Cl)(Cl)Cl)C)=O | C13H14Cl3N3O3S
reactant | sulfur | 0.2 g | [S] | S
product | 5-methyl-6-(3-methyl-4-pyridazinyl)-2H-1,4-thiazin-3(4H)-one | 0.08 g, yield 36% | CC=1NC(CSC1C1=C(N=NC=C1)C)=O | C10H11N3OS
